US05180741
Stage A: 4-bromo-3H-indene
30 g of 4-bromo-1-indanol is dissolved in 720 ml of toluene, 27 g of paratoluene sulphonic acid is added, then 0.93 g of 4-tertbutylcatechol is added. The mixture is taken to reflux for one hour. After cooling to 20° C., the organic phase is washed with 25 ml of N sodium hydroxide, dried and concentrated to dryness, and the residue is chromatographed on silica, eluting with a hexane-difluoro dichloro ethane mixture (95-5), and 24.6 g of expected product is isolated.

reactant | 4-bromo-1-indanol | 30 g | BrC1=C2CCC(C2=CC=C1)O | C9H9BrO
reactant | paratoluene sulphonic acid | 27 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 720 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-tertbutylcatechol | 0.93 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
product | 4-bromo-3H-indene | 24.6 g | BrC1=C2CC=CC2=CC=C1 | C9H7Br
